### PR TITLE
[Merged by Bors] - feat(GroupTheory/Finiteness): add general `IsMulFG`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a general `IsMulFG` predicate on semigroups that generalizes all four existing definitions `Monoid.FG`, `Submonoid.FG`, `Group.FG` and `Subgroup.FG`. Ultimately the plan will be to deprecate all four existing definitions in favor of `IsMulFG`.

Previously the subobject predicates `Submonoid.FG` and `Subgroup.FG` were used to define the more general `Monoid.FG` and `Group.FG`, but the new `IsMulFG` defines the general predicate directly.

---

- [x] depends on: #43661

[Open in Gitpod](https://gitpod.io/from-referrer/)

This is a version of #42200 with additional refactoring to demonstrate the sufficiency of the new API.

### CODE REVIEW

File: Mathlib/GroupTheory/Finiteness.lean [hunk 1]
```diff
@@ -33,6 +39,313 @@ finitely-generated modules.
...
+variable {M M'}
+
+-- We give this instance low priority to avoid slow typeclass resolutions.
+@[to_additive]
+instance (priority := 100) [Finite M] : IsMulFG M := by
+  cases nonempty_fintype M
+  exact ⟨Finset.univ, by simp⟩
+
+@[to_additive]
+theorem IsMulFG.of_surjective {F : Type*} [FunLike F M M'] [MulHomClass F M M'] (f : F)
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Finiteness.lean:74]: Are you sure you want `M` and `M'` explicit here?

File: Mathlib/GroupTheory/Finiteness.lean [hunk 2]
```diff
@@ -33,6 +39,313 @@ finitely-generated modules.
...
+
+@[to_additive]
+instance [IsMulFG M] : IsMulFG (MonoidHom.mrange f) :=
+  .of_surjective f.mrangeRestrict (f.mrangeRestrict_surjective)
+
+@[to_additive]
+instance [IsMulFG M] [IsMulFG M'] : IsMulFG (M × M') := by
+  classical
+  obtain ⟨S, hS⟩ := isMulFG_iff.mp ‹IsMulFG M›
+  obtain ⟨S', hS'⟩ := isMulFG_iff.mp ‹IsMulFG M'›
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Finiteness.lean]:
```suggestion
  obtain ⟨S, hS⟩ := exists_finite_of_isMulFG M
  obtain ⟨S', hS'⟩ := exists_finite_of_isMulFG M'
```
is the spelling we want to encourage, right?

File: Mathlib/GroupTheory/Finiteness.lean [hunk 3]
```diff
@@ -392,57 +674,50 @@ section Group
...
+theorem GroupFG.iff_add_fg : Group.FG G ↔ AddGroup.FG (Additive G) := by
+  rw [Group.fg_def, AddGroup.fg_def]
+  exact Subgroup.fg_iff_add_fg ⊤
 
-theorem AddGroup.fg_iff_mul_fg : AddGroup.FG H ↔ Group.FG (Multiplicative H) :=
-  ⟨fun h => ⟨(AddSubgroup.fg_iff_mul_fg ⊤).1 h.out⟩, fun h =>
-    ⟨(AddSubgroup.fg_iff_mul_fg ⊤).2 h.out⟩⟩
+theorem AddGroup.fg_iff_mul_fg : AddGroup.FG H ↔ Group.FG (Multiplicative H) := by
+  rw [fg_def, Group.fg_def]
+  exact AddSubgroup.fg_iff_mul_fg ⊤
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Finiteness.lean]: Can you prove this directly for `IsAddFG` first?

**Review by eric-wieser — APPROVED** [review]
This looks pretty good to me, thanks! It would be great to follow up with a deprecation of `Monoid.FG` in another PR soon.

Perhaps worth remarking in the description that this also genrealizes to subsemigroups, even if that isn't that useful?

Also, what's the plan for `Module.Finite`; leave it as is, or rename to be more consistent?

**Comment by tb65536** [comment]
> Also, what's the plan for `Module.Finite`; leave it as is, or rename to be more consistent?

Probably leave it as is for now.

**Comment by eric-wieser** [comment]
Hmm, I think we probably want a plan (and a TODO comment) for `Submodule.FG`, otherwise this attempt to unify things will instead make them less consistent.

File: Mathlib/Algebra/Group/Equiv/TypeTags.lean [hunk 4]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.Algebra.Group.TypeTags.Hom
 public import Mathlib.Algebra.Group.Equiv.Defs
 public import Mathlib.Algebra.Notation.Prod
+public import Mathlib.Tactic.DefEqAbuse
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Equiv/TypeTags.lean]:
```suggestion
```

File: Mathlib/GroupTheory/Schreier.lean [hunk 5]
```diff
@@ -164,9 +164,9 @@ theorem exists_finset_card_le_mul [FiniteIndex H] {S : Finset G} (hS : closure (
 @[to_additive /-- **Schreier's Lemma**: A finite index additive subgroup of a finitely generated
   additive group is finitely generated. -/]
 instance fg_of_index_ne_zero [hG : Group.FG G] [FiniteIndex H] : Group.FG H := by
-  obtain ⟨S, hS⟩ := hG.1
+  obtain ⟨S, hS⟩ := Group.isMulFG_iff.mp hG
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Schreier.lean]:
```suggestion
  obtain ⟨S, hS⟩ := Group.exists_of_mulFG G
```

File: Mathlib/GroupTheory/Finiteness.lean
Comment (eric-wieser) [inline Mathlib/GroupTheory/Finiteness.lean:33]: Could you add a `TODO` section suggesting vague plans to merge / deprecate these, assuming you have them?

Could you also add a TODO to the file defining `Submodule.FG` to swap its definition to use `Module.Finite` instead of vice versa, for consistency with `IsAddFG` etc?

**Review by eric-wieser — APPROVED** [review]
maintainer delegate

@tb65536 convinved me in person that having two ways to spell this was on balance annoying, and certainly the generalization to `Semigroup` this provides is desirable, even if only marginly so.

Let's make sure the module docstrings (and PR description) make clear why we currently have three ways to say the same thing, and what the (currently) intended final state will look like; then probably another maintainer should read that before approving.

Thanks for the persistence here!

File: Mathlib/GroupTheory/Finiteness.lean [hunk 6]
```diff
@@ -392,74 +700,63 @@ section Group
...
-    ⟨(AddSubgroup.fg_iff_mul_fg ⊤).2 h.out⟩⟩
+  isMulFG_multiplicative_iff.symm
 
 instance AddGroup.fg_of_group_fg [Group.FG G] : AddGroup.FG (Additive G) :=
-  GroupFG.iff_add_fg.1 ‹_›
+  inferInstance
 
 instance Group.fg_of_mul_group_fg [AddGroup.FG H] : Group.FG (Multiplicative H) :=
-  AddGroup.fg_iff_mul_fg.1 ‹_›
+  inferInstance
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Finiteness.lean]: Do we really need all these instances found by `infer_instance`?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/GroupTheory/Finiteness.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Finiteness.lean]: Sure, I'll remove them.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Finiteness.lean]: If you remove instances let's bench before merging.

Comment (tb65536) [reply Mathlib/GroupTheory/Finiteness.lean]: Sure, will do.

**Comment by tb65536** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/06b15124db2eb70691bb52ebbc7fff2704ac8e6c?reference=56a9a88447f391672d7aeea117da03b6f7016b0d) for 06b15124db2eb70691bb52ebbc7fff2704ac8e6c against 56a9a88447f391672d7aeea117da03b6f7016b0d are in. There are significant results. @tb65536

- 🟥 [`main`](https://radar.lean-lang.org/repos/mathlib4/commits/06b15124db2eb70691bb52ebbc7fff2704ac8e6c/runs/main) exited with code **1**

No significant changes detected.

**Comment by tb65536** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/10f26dafd808542346682926436678226d98bde3?reference=56a9a88447f391672d7aeea117da03b6f7016b0d) for 10f26dafd808542346682926436678226d98bde3 against 56a9a88447f391672d7aeea117da03b6f7016b0d are in. No significant results found. @tb65536

- 🟥 `build//instructions`: **+6.0G** (**+0.00%**)

**Small changes (1✅, 4🟥)**

- ✅ `build/module/Batteries.Data.Fin.OfBits//instructions`: **-24.7M** (**-1.69%**)
- 🟥 `build/module/Batteries.Lean.Syntax//instructions`: **+25.7M** (**+2.56%**)
- 🟥 `build/module/Mathlib.Algebra.AffineMonoid.Basic//instructions`: **+76.6M** (**+1.95%**)
- 🟥 `build/module/Mathlib.GroupTheory.Finiteness//instructions`: **+7.4G** (**+34.54%**) (reduced significance based on *//lines)
- 🟥 `build/module/Qq.ForLean.Do//instructions`: **+30.4M** (**+1.92%**)

**Comment by tb65536** [comment]
Looks good!

bors r+
